US04229350
2-Chloro-12H-dibenzo[d,g][1,3,6]dioxazocine
A suspension of 1.4 g. (0.004 moles) of (2-bromophenoxy)-(2-formamido-4-chlorophenoxy)-methane (m.p.: 98° to 100° C.), 0.6 g. (0.0042 moles) of potassium carbonate, 0.2 g. of copper powder and 12 ml. of Dowtherm(®) is heated up to 180° C. and is vigorously stirred at this temperature for 8 hours. The reaction mixture is filtered while hot, then the solvent is evaporated in vacuo. The remaining dark tar is hydrolyzed by boiling in a mixture of 20 ml. of ethanol and 2 ml. of a 20% aqueous sodium hydroxide solution for one hour. The reaction mixture is cooled and neutralized with a 37% aqueous hydrogen chloride solution. The solvent is evaporated and the brown solid residue is extracted with 10 ml. of hot benzene. Thereafter the solvent is eliminated and the residue is crystallized from benzine.

reactant | (2-bromophenoxy)-(2-formamido-4-chlorophenoxy)-methane | 0.004 moles | BrC1=C(OCOC2=C(C=C(C=C2)Cl)NC=O)C=CC=C1 | C14H11BrClNO3
reactant | potassium carbonate | 0.0042 moles | C([O-])([O-])=O.[K+].[K+]
reactant | Dowtherm | C1=CC=C(C=C1)C2=CC=CC=C2.C1=CC=C(C=C1)OC2=CC=CC=C2
catalyst | copper | [Cu] | Cu
product | 2-Chloro-12H-dibenzo[d,g][1,3,6]dioxazocine | ClC1=CC2=C(OCOC3=C(N2)C=CC=C3)C=C1 | C13H10ClNO2
